data/mechanism_extracts/OrgChemFront/10.1039_d4qo01354a.json
{"doi": "10.1039_d4qo01354a", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical oxidative three-component tandem synthesis of selenyl imidazo[2,1-b]thiazinones from diaryl diselenides, acryloyl chlorides, and 2-mercaptobenzimidazoles/2-mercaptoimidazoles.", "mechanism_family": ["radical_anodic", "cation_initiated", "anion_initiated"], "electrochemical_role": "Anodic oxidation of diaryl diselenide (PhSeSePh) to a selenium-centered cationic radical that fragments into a selenium cation (PhSe+) and a selenium radical (PhSe•); cathode reduces H+ to H2.", "key_intermediates": [{"name": "diselenide cationic radical [PhSeSePh]•+ (A)", "smiles": null, "role": "transient"}, {"name": "phenylselenium cation PhSe+ (B)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "phenylselenium radical PhSe• (C)", "smiles": "[Se]c1ccccc1", "role": "transient"}, {"name": "N-acyl benzimidazole-thiolate adduct from 2a + 3a (D)", "smiles": null, "role": "reactive"}, {"name": "cyclized imidazo[2,1-b]thiazinone enolate/carbanion intermediate (E)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh to a radical cation that splits into PhSe+ and PhSe•; base-mediated condensation of acryloyl chloride with 2-mercaptobenzimidazole gives acyl-thioether D, which undergoes intramolecular cyclization to carbanion E; E is trapped by PhSe+ to give the selenylated product, while PhSe• auto-couples to regenerate diselenide and H+ is reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction proceeded with only slight yield decrease (80%), suggesting non-radical main pathway."}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product still formed in 70% yield; radical pathway not dominant."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Product obtained in 67% yield; radical trapping ineffective at suppressing reaction."}, {"name": "PhSeCl (in place of PhSeSePh, no electricity)", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Afforded 4a in 80% yield without current, supporting in situ generation of selenium cation."}, {"name": "D2O (replacing diselenide)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Deuterated product 6-d obtained in 95% yield with 96% D-incorporation, supporting a carbanion intermediate E."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Radical trapping experiments (TEMPO/BHT/DPE) did not suppress the reaction, leading the authors to favor an ionic (cation/anion) pathway over a radical chain; CV showed oxidation of 1a at 1.327 V supporting anodic activation of the diselenide. An alternative full-radical pathway (PhSe• addition) is implicitly disfavored but cannot be entirely excluded."}
